US07332495B2
IV-43 N1-phenylethyl-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl]piperazine dihydrochloride
A mixture of N-(1-phenylethyl)piperazine dihydrochloride (0.79 g, 3 mmol), 2-bromo-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one (1.64 g, 5 mmol) and K2CO3 (1.38 g, 10 mmol) in acetone was treated according to general preparation 2 to give 1.06 g of compound (IV-43) as white solid, yield 65%, mp 231-232° C. M+ 437.

reactant | N-(1-phenylethyl)piperazine dihydrochloride | 3 mmol, 0.79 g | Cl.Cl.C1(=CC=CC=C1)C(C)N1CCNCC1
reactant | 2-bromo-1-(5-chloro-6-methoxynaphthalen-2-yl)propan-1-one | 5 mmol, 1.64 g | BrC(C(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC)C | C14H12BrClO2
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N1-phenylethyl-N4-[1-(5-chloro-6-methoxy-2-naphthoyl)ethyl]piperazine dihydrochloride | 1.06 g, yield 65% | Cl.Cl.C1(=CC=CC=C1)CCN1CCN(CC1)C(C)C(=O)C1=CC2=CC=C(C(=C2C=C1)Cl)OC | InChI=1S/C26H29ClN2O2.2ClH/c1-19(29-16-14-28(15-17-29)13-12-20-6-4-3-5-7-20)26(30)22-8-10-23-21(18-22)9-11-24(31-2)25(23)27;;/h3-11,18-19H,12-17H2,1-2H3;2*1H
